US08865752B2
To a solution of 6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine (260 mg, 0.866 mmol) and water (4 mL) at 0° C. was added aqueous HBr (0.98 mL, 8.66 mmol) and the mixture was cooled to −0° C. A cold (−10° C.) solution of sodium nitrite (75 mg, 1.08 mmol) in water (1 mL) was added to the reaction mixture over a period of 5 min while maintaining the temperature below −5° C. and the reaction was stirred at −10° C. for 15 min. To a cold (−10° C.) solution of CuBr2 (253 mg, 1.08 mmol) in water (4 mL) was added the reaction mixture and stirred for 10 min at 0° C. MeCN was added to the reaction mixture and then the reaction mixture was stirred for 2.5 h while warming to RT. The reaction was basified with sat. aq. NaHCO3 (pH 7) and then 10 N NaOH (pH 8) followed by celite filtration. The aqueous phase was extracted three times with DCM and the organic extracts were combined and dried over MgSO4, filtered and then concentrated. The crude product was purified by preparative TLC using 5% MeOH in DCM as eluent to afford to 2-bromo-6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole as white solid. MS (ES+): m/z 364 (MH+).

reactant | 6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | 0.866 mmol, 260 mg | C(C)C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC | C16H20N4S
reactant | HBr | 8.66 mmol, 0.98 mL | Br | BrH
reactant | sodium nitrite | 1.08 mmol, 75 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | pH 7 | C(=O)(O)[O-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | water | 4 mL | O | H2O
solvent | water | 4 mL | O | H2O
solvent | MeCN | CC#N | C2H3N
product | 2-bromo-6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)CC)N2C=NC=C2 | C16H18BrN3S
